US08536168B2
1-Benzyl-4-[4-(4-nitro-phenyl)-piperidine-1-yl]-phthalazine
To a solution of 1-benzyl-4-chloro-phthalazine (1.08 g, 4.04 mmol) in 8 mL NMP is added 4-(4-nitro-phenyl)piperidine (1 g, 4.85 mmol), TEA (1.68 mL, 12.12 mmol). The reaction mixture was heated to 150° C. for 45 min in a microwave reactor. Water was added to the reaction mixture to form a precipitate and the solid is collected by filtration and dried under vacuum. The resulting solid is purified by HPLC with acetonitril in water (from 20% to 100% with 3% 1-propanol) at 220 nm wavelength detection to provide the title compound (1.4 g, 78%).

reactant | 1-benzyl-4-chloro-phthalazine | 4.04 mmol, 1.08 g | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)Cl | C15H11ClN2
reactant | 4-(4-nitro-phenyl)piperidine | 4.85 mmol, 1 g | [N+](=O)([O-])C1=CC=C(C=C1)C1CCNCC1 | C11H14N2O2
reactant | Water | O | H2O
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | 1-Benzyl-4-[4-(4-nitro-phenyl)-piperidine-1-yl]-phthalazine | 1.4 g, 78% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C26H24N4O2
